US07612114B2
5-Methoxy-2-(6-methoxy-1,1-dimethyl-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine
To a solution of 6-methoxy-2-(4-methoxy-2-nitrophenyl)-1,1-dimethyl-1,4-dihydronaphthalene (433 mg) in tetrahydrofuran (6 ml) and methanol (6 ml) was added 10% palladium-activated charcoal (200 mg), and the solution was stirred for 3.5 hours at room temperature under a hydrogen atmosphere at 4 atmospheric pressures. After filtration through celite pad, the solvent was evaporated in vacuo, and the resulting solid was washed with hexane-diethyl ether system to provide the title compound (314 mg).

reactant | 6-methoxy-2-(4-methoxy-2-nitrophenyl)-1,1-dimethyl-1,4-dihydronaphthalene | 433 mg | COC=1C=C2CC=C(C(C2=CC1)(C)C)C1=C(C=C(C=C1)OC)[N+](=O)[O-] | C20H21NO4
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | methanol | 6 ml | CO | CH4O
catalyst | palladium | 200 mg | [Pd] | Pd
product | 5-Methoxy-2-(6-methoxy-1,1-dimethyl-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine | 314 mg | COC=1C=CC(=C(C1)N)C1C(C2=CC=C(C=C2CC1)OC)(C)C | C20H25NO2
